US06207686B1
To a solution of methyl (2-benzyloxyphenyl)acetate (935 mg) in tetrahydrofuran (9.4 ml) was added sodium borohydride (600 mg) and the suspension was heated to 45° C. A mixture of methanol (3 ml) and tetrahydrofuran (6 ml) was added dropwise to the mixture and the mixture was stirred for 2 hours. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in dichloromethane and quenched by 1 N aqueous hydrochloric acid solution. The organic layer was washed with brine, dried and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel [eluting with ethyl acetate - n-hexane (1:1)] to afford 2-(2-benzyloxyphenyl)ethanol (764 mg).

reactant | methyl (2-benzyloxyphenyl)acetate | 935 mg | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC(=O)OC | C16H16O3
reactant | sodium borohydride | 600 mg | [BH4-].[Na+]
reactant | methanol | 3 ml | CO | CH4O
solvent | tetrahydrofuran | 9.4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 2-(2-benzyloxyphenyl)ethanol | 764 mg | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCO | C15H16O2
